US07220775B2
2-{4-BENZYL-1-PIPERAZINYL)-N4-(3,4-DICHLOROPHENYL)-N6,N6-DIMETHYL-4,6-PYRIMIDINEDIAMINE
Potassium tert-butoxide (1.6 mmol, 1 M in 2-methyl 2-propanol) was added to a solution of N-[2-(4-benzyl-1-piperazinyl)-6-chloro-4-pyrimidinyl]-N,N-dimethylamine (0.331 g, 0.997 mmol) and 3,4 dichloroaniline (0.178 g, 1.10 mmol) in dioxane (2 mL). Subsequently, tris(dibenzylidineacetone)dipalladium (40 mg, 0.04 mmol) and 2,2′-Bis(diphenylphosphino)-1,1′binapthyl (44 mg, 0.070 mmol) were added and the mixture was stirred for 7 h at 110° C. The resulting mixture was cooled to room temperature and concentrated under reduced pressure. The residue was treated with saturated NaHCO3 (50 mL) and extracted with CH2Cl2 (3×50 mL). The organic layer was washed with brine (2×100 mL), dried over Na2SO4, concentrated in vacuo, and purified by preparative TLC using hexane/EtOAc to give the desired product (300 mg, 65%).

reactant | Potassium tert-butoxide | 1.6 mmol, 1 M | CC(C)([O-])C.[K+]
reactant | N-[2-(4-benzyl-1-piperazinyl)-6-chloro-4-pyrimidinyl]-N,N-dimethylamine | 0.997 mmol, 0.331 g | C(C1=CC=CC=C1)N1CCN(CC1)C1=NC(=CC(=N1)N(C)C)Cl | C17H22ClN5
reactant | 3,4 dichloroaniline | 1.10 mmol, 0.178 g | ClC=1C=C(N)C=CC1Cl | C6H5Cl2N
reactant | 2,2′-Bis(diphenylphosphino)-1,1′binapthyl | 0.070 mmol, 44 mg | C1(=CC=CC=C1)P(C1=C(C2=CC=CC=C2C=C1)C1=C(C=CC2=CC=CC=C12)P(C1=CC=CC=C1)C1=CC=CC=C1)C1=CC=CC=C1 | C44H32P2
solvent | dioxane | 2 mL | O1CCOCC1 | C4H8O2
product | 2-{4-BENZYL-1-PIPERAZINYL)-N4-(3,4-DICHLOROPHENYL)-N6,N6-DIMETHYL-4,6-PYRIMIDINEDIAMINE | 300 mg, 65% | C(C1=CC=CC=C1)N1CCN(CC1)C1=NC(=CC(=N1)NC1=CC(=C(C=C1)Cl)Cl)N(C)C | C23H26Cl2N6
